US07763731B2
3-(4-Fluoro-2-nitro-phenoxy)-benzoic acid ethyl ester
2,5-Difluoronitrobenzene (5.0 g, 31.4 mmol), ethyl 3-hydroxybenzoate (5.2 g, 31.4 mmol), and K2CO3 (8.7 g, 62.8 mmol) were added to DMF (50 mL). The solution was heated to 85° C. and stirred for 16 h. The reaction was cooled. The reaction was poured into distilled water and extracted with ethyl acetate. The combined organic layers were washed with distilled water, brine, and dried over sodium sulfate, filtered and concentrated under vacuum giving the crude title compound. The crude product was purified by silica gel column chromatography eluting with hexanes/ethyl acetate (90:10) to give the title compound (7.0 g, 73%).

reactant | 2,5-Difluoronitrobenzene | 31.4 mmol, 5.0 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | ethyl 3-hydroxybenzoate | 31.4 mmol, 5.2 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | K2CO3 | 62.8 mmol, 8.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-(4-Fluoro-2-nitro-phenoxy)-benzoic acid ethyl ester | 7.0 g, 73% | C(C)OC(C1=CC(=CC=C1)OC1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C15H12FNO5
